US09079866B2
Step B: 4′-(2-Aminopyrimidin-5-yl)-3′-fluoro-[1,1′-biphenyl]-2-carboxylic acid
A solution of methyl 4′-(2-aminopyrimidin-5-yl)-3′-fluoro-[1,1′-biphenyl]-2-carboxylate (218 mg, 0.67 mmol) in NaOH (8 mL, 2 N) and THF (8 mL) was stirred at 80° Celsius for 48 hours, and then concentrated to dryness. The residue was acidified with 2 N HCl. The precipitate was collected by filtration and washed with water several times, and dried in vacuo to afford the desired product (220 mg, 106%). The crude product was used without further purification. MS (ESI): mass calcd. for C17H12FN3O2, 309.09; m/z found, 309.9 [M+H]+.

reactant | methyl 4′-(2-aminopyrimidin-5-yl)-3′-fluoro-[1,1′-biphenyl]-2-carboxylate | 0.67 mmol, 218 mg | NC1=NC=C(C=N1)C1=C(C=C(C=C1)C=1C(=CC=CC1)C(=O)OC)F | C18H14FN3O2
solvent | NaOH | 2 N, 8 mL | [OH-].[Na+]
solvent | THF | 8 mL | C1CCOC1 | C4H8O
product | 4′-(2-Aminopyrimidin-5-yl)-3′-fluoro-[1,1′-biphenyl]-2-carboxylic acid | 220 mg, 106% | NC1=NC=C(C=N1)C1=C(C=C(C=C1)C=1C(=CC=CC1)C(=O)O)F | C17H12FN3O2
